US05654436
1-(3,4-Dichiorobenzyl)-2-pyridin-2-yl-1H-benzoimidazole
2-Pyridin-2-yl-1H-benzoimidazole (1.95 g, 0.01 mol) was dissolved in DMF (50 mL) under an atmosphere of nitrogen. Sodium hydride (60% dispersion in oil, 0.48 g, 0.012 mol) was then added. The reaction mixture was stirred at ambient temperature for 0.5 hour. 3,4-Dichlorobenzyl bromide (2.4 g, 0.01 mol) was then added. The mixture was stirred at 80° C. for a period of 4 hours. The mixture was cooled and diluted with water. The mixture was then extracted with ethyl acetate. The organic extract was washed with water twice then evaporated. The residue was triturated with a small amount of ethyl acetate/hexane. The solid was collected and crystallized from ethanolic hydrogen chloride. The solid was collected to give the title compound (1.3 g, 36.7% yield) as a mono-hydrochloride, light brown solid, m.p. 227°-229° C. Anal. Calcd. for C19H13Cl2N3.HCl: C, 58.41; H, 3.61; N, 10.76. Found: C, 58.21; H, 3.54; N, 10.80. Mass spectrum (+FAB; [M+H]+) 354/356/358. 1H-NMR (DMSO-d6 ; 400 MHz) δ 8.78 (d, 1H), 8.52 (d, 1H), 8.15 (t, 1H), 7.9 (d, 1H), 7.77 (d, 1H), 7.65 (d, 2H), 7.54 (d, 1H), 7.48-7.52 (m, 2H), 7.23 (d, 1H), and 6.22 ppm (s, 2H).

reactant | 2-Pyridin-2-yl-1H-benzoimidazole | 0.01 mol, 1.95 g | N1=C(C=CC=C1)C1=NC2=C(N1)C=CC=C2 | C12H9N3
reactant | Sodium hydride | 0.012 mol, 0.48 g | [H-].[Na+]
reactant | 3,4-Dichlorobenzyl bromide | 0.01 mol, 2.4 g | ClC=1C=C(CBr)C=CC1Cl | C7H5BrCl2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-(3,4-Dichiorobenzyl)-2-pyridin-2-yl-1H-benzoimidazole | 1.3 g, 36.7% yield | ClC=1C=C(CN2C(=NC3=C2C=CC=C3)C3=NC=CC=C3)C=CC1Cl | C19H13Cl2N3
